US04816582
99 g of ethyl 2-(2-amino-4-thiazolyl)-2-(Z)-hydroxyimino-acetate, 121.4 g of N-chloroacetylhexamethyleneimine, 238 ml of N-ethyldiisopropylamine and 103.5 g of sodium iodide are stirred at room temperature for 12 hours in 1675 ml of acetonitrile. The mixture is poured into 7 l of ethyl acetate, washed with water, dried over magnesium sulphate and concentrated. After recrystallization from isopropyl acetate, there are obtained 136 g of ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-[[(hexahydro-1H-azepin-1-yl)carbonyl]methoxy]imino]-acetate of melting point 163°-164° C.

reactant | ethyl 2-(2-amino-4-thiazolyl)-2-(Z)-hydroxyimino-acetate | 99 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O | C7H9N3O3S
reactant | N-ethyldiisopropylamine | 238 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium iodide | 103.5 g | [I-].[Na+]
reactant | ethyl acetate | 7 l | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 1675 ml | C(C)#N | C2H3N
product | ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-[[(hexahydro-1H-azepin-1-yl)carbonyl]methoxy]imino]-acetate | 136 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCC(=O)N1CCCCCC1 | C15H22N4O4S
